US06297239B1
Step E: Preparation of 2-Fluoro-4-imidazol-1-ylmethyl-benzonitrile
4-Bromomethyl-2-fluoro-benzonitrile (3.44 g, 16.0 mmol) and imidazole (5.47 g, 80.3 mmol) were dissolved in DMF (40 mL) and stirred at ambient temperature for 2 h. The DMF was removed in vacuo and the residue was partitioned between EtOAc (300 mL) and aqueous saturated NaHCO3 solution. The organic layer was separated, washed with NaHCO3 solution, H2O, brine, and dried (MgSO4). Filtration and concentration to dryness gave the title compound after chromatography (silica gel, 1-2% CH3OH/CH2Cl2).

reactant | 4-Bromomethyl-2-fluoro-benzonitrile | 16.0 mmol, 3.44 g | BrCC1=CC(=C(C#N)C=C1)F | C8H5BrFN
reactant | imidazole | 80.3 mmol, 5.47 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-Fluoro-4-imidazol-1-ylmethyl-benzonitrile | FC1=C(C#N)C=CC(=C1)CN1C=NC=C1 | C11H8FN3
